Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Cough, Diarrhea 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ with PMH of ___ s/p Mohs procedure who 
presents with influenza infection and c/f superimposed 
multifocal bacterial pneumonia.

This all started on ___ when he began feeling symptoms of a 
chest cold. This continued to worsen throughout the week and 
progressed to significant coughing w/o sputum production, night 
sweats, chills, and waxing/waning fevers. Towards the end of the 
week he had lost his appetite and was taking in poor PO. By 
___, he felt consistently nauseous, had one episode of 
non-bloody
bilious emesis, and began having diarrhea, which he described as 
___ non-bloody BMs with mucous. He continued to worsen 
throughout the weekend and describes feeling weak, dehydrated, 
and increasingly dyspneic. He presented to his PCP this AM, who 
then sent him to the ED for evaluation.

Notably, pt was in ___ last weekend for a funeral. Denies any 
sick contacts, new foods, bug bites. Did not go swimming while 
there. Currently sexually active with husband of ___ years and 
has no new partners.

- In the ED, initial vitals were:
Temp: 97.4 HR: 94 BP: 126/77 O(2)Sat: 93 Low

- Exam was notable for: 
Constitutional: Appears uncomfortable
HEENT: Normocephalic, atraumatic, MMM
Chest: Decreased breath sounds especially in bases, mildly
tachypneic at rest (mid-20s on my exam), has coughing paroxysms
with any breath
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft, Nontender, Nondistended
Extr/Back: No cyanosis, clubbing or edema
Skin: Warm and dry, diffuse sand-papery rash on torso, mildly
erythematous, non-tender
Neuro: Normal speech, no gross weakness
Psych: Normal mood, Normal mentation
___: No petechiae

- Labs were notable for:
___ 12:20PM BLOOD WBC: 9.3 RBC: 4.97 Hgb: 15.7 Hct: 44.7 
MCV: 90 MCH: 31.6 MCHC: 35.1 RDW: 12.6 RDWSD: 41.___*  
___ 12:20PM BLOOD Glucose: 95 UreaN: 16 Creat: 0.9 Na: 139 
K: 3.9 Cl: 99 HCO3: 24 AnGap: 16 
___ 01:20PM OTHER BODY FLUID FluAPCR: POSITIVE* FluBPCR: 
NEGATIVE 

___ 4:15 pm BLOOD CULTURE
   Blood Culture, Routine (Pending): 

- Studies were notable for:

CXR on ___:
FINDINGS:  
PA and lateral views of the chest provided.  A right midlung 
opacity is concerning for pneumonia.  In addition, there are 
bilateral lower lobe consolidations concerning for pneumonia.  
No large effusion or pneumothorax.  Heart size appears within 
normal limits.  Mediastinal contour is normal. Imaged bony 
structures are intact. 
IMPRESSION:   
Multifocal pneumonia 

The patient was given:
- 1L NS bolus
- Duonebs
- Tamiflu
- CTX, Azithro, Vanc

On arrival to the floor, the patient continued to feel weak and 
dehydrated. Complained of significant coughing and feeling of 
mucous stuck in lungs. Described a sore throat and chest pain, 
which he feels is from the coughing.

 
Past Medical History:
Allergic Rhinitis                                             
Insomnia                                                       
Dysphonia                                                     
Recurrent HSV
BCC s/p MOHS on the left forehead (___)                         

H/o Left Knee Meniscal Tear s/p Repair (___)                    


 
Social History:
___
Family History:
- Mother: CHF, suicide
- Father: cirrhosis
- ___: prostate ca
  

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITALS: ___ 2300 Temp: 99.2 PO BP: 123/74 HR: 82 RR: 18 O2 
sat: 94% 
GENERAL: Alert and interactive. In no acute distress.
HEENT: EOMI. Sclera anicteric and without injection. MMM without 
lesions.
NECK: No cervical lymphadenopathy.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.
LUNGS: Mild crackles throughout; pt not taking deep breaths and 
coughed significantly throughout exam.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep 
palpation in all four quadrants.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.
SKIN: Warm. Cap refill <2s. Erythematous blanching macular rash 
across neck and chest, decreased slightly but still present 
across abdomen and out to all 4 limbs. Non-tender to palpation.
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously.

DISCHARGE PHYSICAL EXAM 
=======================
VS: ___ 0705 Temp: 97.9 PO BP: 159/79 HR: 80 RR: 18 O2 sat: 
94% O2 delivery: Ra 
GENERAL: lying in bed, alert, NAD, coughing with hoarse voice 
HEENT: AT/NC, anicteric sclera, MMM 
NECK: supple, no LAD.
CV: RRR, S1/S2, no murmurs, gallops, or rubs 
PULM: diffuse crackles and wheezes, with decreased air movement 
throughout. No use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly 
EXTREMITIES: no cyanosis, clubbing, or edema. With erythema over 
upper half of proximal extremities. 
MSK: sternum tender to palpation. 
PULSES: 2+ radial pulses bilaterally 
NEURO: Alert, moving all 4 extremities with purpose, face 
symmetric 
DERM: Warm and well perfused, diffuse macular blanching 
erythematous rash on back trunk, anterior trunk less 
erythematous.

 
Pertinent Results:
ADMISSION
=========
___ 01:20PM OTHER BODY FLUID  FluAPCR-POSITIVE* 
FluBPCR-NEGATIVE
___ 12:20PM   WBC-9.3 RBC-4.97 HGB-15.7 HCT-44.7 MCV-90 
MCH-31.6 MCHC-35.1 RDW-12.6 RDWSD-41.2
___ 12:37PM   LACTATE-1.9
___ 12:20PM   GLUCOSE-95 UREA N-16 CREAT-0.9 SODIUM-139 
POTASSIUM-3.9 CHLORIDE-99 TOTAL CO2-24 ANION GAP-16

DISCHARGE
=========
___ 07:15AM BLOOD WBC-4.8 RBC-4.08* Hgb-12.7* Hct-37.5* 
MCV-92 MCH-31.1 MCHC-33.9 RDW-12.8 RDWSD-43.1 Plt ___
___ 07:15AM BLOOD Glucose-118* UreaN-7 Creat-0.7 Na-144 
K-3.4* Cl-103 HCO3-27 AnGap-14
___ 07:15AM BLOOD Calcium-8.8 Phos-3.1 Mg-2.2

IMAGING
=======
___ CXR:
FINDINGS:  
PA and lateral views of the chest provided.  A right midlung 
opacity is 
concerning for pneumonia.  In addition, there are bilateral 
lower lobe 
consolidations concerning for pneumonia.  No large effusion or 
pneumothorax. Heart size appears within normal limits.  
Mediastinal contour is normal. Imaged bony structures are 
intact. 
  
IMPRESSION:  
Multifocal pneumonia 

 
Brief Hospital Course:
Mr. ___ is a ___ with PMH of ___ s/p Mohs procedure 
who presented with influenza infection and concern for 
superimposed multifocal bacterial pneumonia found on CXR. 

ACUTE ISSUES: 
=================
#Influenza w/ Multifocal PNA
Patient presented with approximately 1 week of worsening cough, 
malaise, fevers/chills, nausea associated with decreased PO 
intake and emesis, and several episodes of nonbloody mucous 
diarrhea. In the ED he was found to have a positive influenza A 
test and CXR demonstrating consolidations in the R middle lobe 
and bilateral lower lobes consistent with multifocal pneumonia. 
Was treated with Tamiflu and started on ceftriaxone, 
azithromycin, vancomycin then narrowed to ceftriaxone and 
azithromycin. Legionella urine antigen test negative, strep 
pneumo, blood cultures, and sputum cultures pending on discharge 
but with clinical improvement in airflow and dyspnea. He was 
started on Tamiflu for 5 day course (last day ___ and 
transitioned to levofloxacin course for a total 5 day course. 

#Rash
Erythematous blanching macular rash began 2 days prior to 
presentation that was worse over his neck and trunk and on his 
upper and lower extremities as well. Rash was not painful or 
pruritic. Likely viral exanthem, though unclear etiology. 
Patient states he has a similar rash whenever he is ill. 
Important to consider acute HIV, though patient does not have 
cervical lymphadenopathy on exam. Also denies any new sexual 
partners. HIV antibodies negative. Rash improved significantly 
during his hospitalization, consistent with resolving viral 
exanthema as above.

#Hypophosphatemia 
Patient's phosphate level 1.7, most likely due to decreased PO 
intake as he had not eaten for several days prior to 
presentation. Resolved by day of discharge. 

#Chest Pain
Patient had chest pain with coughing and palpation. On exam, pt 
has RRR, nl S1 and S2, 2+ radial pulses, no ___ edema. Chest wall 
was tender to palpation. Most likely MSK pain in setting of 
significant coughing over the past week.

#Hematuria
Microscopic hematuria found on UA this admission, few bacteria 
and no WBCs/leuk esterase and no symptoms of UTI.

CHRONIC/STABLE ISSUES
=====================
#Insomnia
- Continued home trazodone 50mg qHS prn

TRANSITIONAL ISSUES 
===================
[ ] Microscopic hematuria found on UA this admission with no 
signs or symptoms of infection, would repeat UA as outpatient 
and further workup per PCP.
[ ] Plan to complete a total 5 day course of antibiotics for 
CAP, continue to monitor for symptom resolution.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraZODone 50 mg PO QHS:PRN sleep 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Albuterol Inhaler 2 PUFF IH Q6H:PRN Wheezing  
3.  Fluticasone Propionate 110mcg 2 PUFF IH BID:PRN Wheezing  
4.  Levofloxacin 750 mg PO Q24H Duration: 3 Days  
5.  OSELTAMivir 75 mg PO BID Duration: 5 Days  
6.  TraZODone 50 mg PO QHS:PRN sleep  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES: 
==================
- Influenza A
- Post-influenza Multifocal Pneumonia 
- Reactive Airway Disease
- Viral Exanthema 

SECONARY DIAGNOSES: 
==================
- Insomnia 

PRIMARY DIAGNOSES: 
==================
- Influenza A
- Post-influenza Multifocal Pneumonia 
- Reactive Airway Disease
- Viral Exanthema 

SECONARY DIAGNOSES: 
==================
- Insomnia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
 
It was a privilege caring for you at ___ 
___. 

WHY WAS I IN THE HOSPITAL? 
- You had fevers, cough, decreased appetite, and fatigue and was 
found to have influenza as well as chest x-ray concerning for 
pneumonia. 

WHAT HAPPENED TO ME IN THE HOSPITAL? 
- You received IV fluids, Tamiflu, and antibiotics to help with 
your infection. 
- You received nebulizers to help with your breathing and were 
provided with prescriptions for inhalers on discharge to help 
with your breathing.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL? 
- Continue to take all your medicines and keep your 
appointments.

 
We wish you the best! 
Sincerely, 
Your ___ Team 

 
Followup Instructions:
___